### PR TITLE
[Merged by Bors] - feat(FieldTheory/Minpoly): minpoly K x splits implies minpoly K (algebraMap K L a - x) splits

### PR DESCRIPTION
**Pull request by jjdishere**
Add `minpoly K x` splits implies `minpoly K (- x)` splits and `minpoly K (algebraMap K L a - x)` splits. This is after #17093 . 

---

- [x] depends on: #17367 
- [x] depends on: #17093 
[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by alreadydone** [comment]
Doesn't [IntermediateField.splits_of_mem_adjoin](https://leanprover-community.github.io/mathlib4_docs/Mathlib/FieldTheory/Normal.html#IntermediateField.splits_of_mem_adjoin) directly imply the result in the title (and #17903)?

**Comment by jjdishere** [comment]
> Doesn't [IntermediateField.splits_of_mem_adjoin](https://leanprover-community.github.io/mathlib4_docs/Mathlib/FieldTheory/Normal.html#IntermediateField.splits_of_mem_adjoin) directly imply the result in the title (and #17903)?

Thank you very much! I didn't find this theorem before. For those intermediate results in this PR, I believe they have their own use. For the final results, do you suggest 
1. I remove the final results, or 
2. keep them and use the [IntermediateField.splits_of_mem_adjoin](https://leanprover-community.github.io/mathlib4_docs/Mathlib/FieldTheory/Normal.html#IntermediateField.splits_of_mem_adjoin) to golf the proof, or 
3. keep it as it is? 

I think these final lemmas are easier to use than [IntermediateField.splits_of_mem_adjoin](https://leanprover-community.github.io/mathlib4_docs/Mathlib/FieldTheory/Normal.html#IntermediateField.splits_of_mem_adjoin) in other proofs.

**Comment by alreadydone** [comment]
Strangely the diff is still 34 files after you merged master ... I'll take a look at the intermediate results after this is fixed.
I think it's good to keep the final results and golf it, but if it requires additional import(s) you may keep your original proof.

**Comment by jjdishere** [comment]
@alreadydone I've checked the dependency. [IntermediateField.splits_of_mem_adjoin](https://leanprover-community.github.io/mathlib4_docs/Mathlib/FieldTheory/Normal.html#IntermediateField.splits_of_mem_adjoin) live in the file [FieldTheory.Normal](https://leanprover-community.github.io/mathlib4_docs/Mathlib/FieldTheory/Normal.html), which imports [FieldTheory.SplittingField.Construction](https://leanprover-community.github.io/mathlib4_docs/Mathlib/FieldTheory/SplittingField/Construction.html), which imports [FieldTheory.SplittingField.IsSplittingField](https://leanprover-community.github.io/mathlib4_docs/Mathlib/FieldTheory/SplittingField/IsSplittingField.html), which imports [RingTheory.Adjoin.Field](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/Adjoin/Field.html), which is the file my theorems live in. 

So indeed it will require additional import(s) (move these lemmas to 3 files later) if I try to use [IntermediateField.splits_of_mem_adjoin](https://leanprover-community.github.io/mathlib4_docs/Mathlib/FieldTheory/Normal.html#IntermediateField.splits_of_mem_adjoin). What is your opinion on this?

File: Mathlib/Algebra/Polynomial/Splits.lean [hunk 1]
```diff
@@ -139,6 +139,44 @@ theorem splits_X_pow (n : ℕ) : (X ^ n).Splits i :=
 theorem splits_id_iff_splits {f : K[X]} : (f.map i).Splits (RingHom.id L) ↔ f.Splits i := by
   rw [splits_map_iff, RingHom.id_comp]
 
+theorem Splits.comp_X_sub_C {i : L →+* F} (a : L) {f : L[X]}
+    (h : f.Splits i) : (f.comp (X - C a)).Splits i := by
+  cases h with
+  | inl h0 =>
+    left
+    simp only [map_eq_zero] at h0 ⊢
+    exact h0.symm ▸ zero_comp
```
Comment (alreadydone) [inline Mathlib/Algebra/Polynomial/Splits.lean:148]: You don't need L be a field here, maybe you can move it to an appropriate section.
```suggestion
theorem Splits.comp_X_sub_C {F L} [CommRing L] [Field F] {i : L →+* F} (a : L) {f : L[X]}
    (h : f.Splits i) : (f.comp (X - C a)).Splits i := by
  cases h with
  | inl h0 =>
    left
    rw [map_comp, h0, zero_comp]
```
And this would better be stated as an iff. Even better, can you prove `(f.comp g).Splits i ↔ f.Splits i` if `degree (map i g) = 1`? This would require constructing an `algEquiv` encompassing `algEquivAevalXAddC` and `algEquivAevalNegX`, but would avoid the same argument being repeating in `Splits.comp_neg_X` below.

File: Mathlib/Algebra/Polynomial/Splits.lean [hunk 2]
```diff
@@ -139,6 +139,44 @@ theorem splits_X_pow (n : ℕ) : (X ^ n).Splits i :=
...
+  cases h with
+  | inl h0 =>
+    left
+    simp [map_eq_zero] at h0 ⊢
+    exact h0.symm ▸ zero_comp
+  | inr h =>
+    right
+    intro g irr dvd
+    rw [map_comp, Polynomial.map_neg, map_X, dvd_comp_neg_X_iff] at dvd
+    have := h (irr.map (algEquivAevalNegX)) dvd
```
Comment (alreadydone) [inline Mathlib/Algebra/Polynomial/Splits.lean:174]:
```suggestion
    have := h (irr.map algEquivAevalNegX) dvd
```

File: Mathlib/Algebra/Polynomial/AlgebraMap.lean [hunk 3]
```diff
@@ -300,6 +300,15 @@ def algEquivOfCompEqX (p q : R[X]) (hpq : p.comp q = X) (hqp : q.comp p = X) : R
 def algEquivAevalXAddC {R} [CommRing R] (t : R) : R[X] ≃ₐ[R] R[X] :=
   algEquivOfCompEqX (X + C t) (X - C t) (by simp) (by simp)
 
+/-- The involutive automorphism of the polynomial algebra given by `p(X) ↦ p(-X)`. -/
+@[simps!]
+def algEquivAevalNegX {R} [CommRing R] : R[X] ≃ₐ[R] R[X] :=
+  algEquivOfCompEqX (- X) (- X) (by simp) (by simp)
+
+theorem comp_neg_X_comp_neg_X {R} [CommRing R] (p : R[X]) : (p.comp (- X)).comp (-X) = p := by
```
Comment (alreadydone) [inline Mathlib/Algebra/Polynomial/AlgebraMap.lean:308]:
```suggestion
  algEquivOfCompEqX (-X) (-X) (by simp) (by simp)

theorem comp_neg_X_comp_neg_X {R} [CommRing R] (p : R[X]) : (p.comp (-X)).comp (-X) = p := by
```

File: Mathlib/RingTheory/Adjoin/Field.lean [hunk 4]
```diff
@@ -97,6 +97,33 @@ theorem IsIntegral.mem_range_algebraMap_of_minpoly_splits [Algebra K L] [IsScala
     x ∈ (algebraMap K L).range :=
   int.mem_range_algHom_of_minpoly_splits h (IsScalarTower.toAlgHom R K L)
 
+theorem minpoly_neg_splits [Algebra K L] {x : L} (g : (minpoly K x).Splits (algebraMap K L)) :
+    (minpoly K (- x)).Splits (algebraMap K L) := by
```
Comment (alreadydone) [inline Mathlib/RingTheory/Adjoin/Field.lean:101]:
```suggestion
    (minpoly K (-x)).Splits (algebraMap K L) := by
```

**Review by alreadydone — COMMENTED** [review]
For consistency:

File: Mathlib/Algebra/Polynomial/AlgebraMap.lean [hunk 5]
```diff
@@ -548,6 +557,21 @@ lemma comp_X_add_C_eq_zero_iff : p.comp (X + C t) = 0 ↔ p = 0 :=
...
+  convert (map_dvd_iff <| algEquivAevalXAddC a).symm using 2
+  rw [C_eq_algebraMap, algEquivAevalXAddC_apply, ← comp_eq_aeval]
+  simp [comp_assoc]
+
+lemma dvd_comp_X_add_C_iff (p q : R[X]) (a : R) :
+    p ∣ q.comp (X + C a) ↔ p.comp (X - C a) ∣ q := by
+  simpa using dvd_comp_X_sub_C_iff p q (-a)
+
+lemma dvd_comp_neg_X_iff (p q : R[X]) : p ∣ q.comp (-X) ↔ p.comp (-X) ∣ q := by
+  convert (map_dvd_iff <| algEquivAevalNegX).symm using 2
```
[the remark this answers is not in the document]
Comment (jjdishere) [reply Mathlib/Algebra/Polynomial/AlgebraMap.lean:571]: Thanks! Fixed.

File: Mathlib/Algebra/Polynomial/Splits.lean (hunk 2 above)
Comment (jjdishere) [reply Mathlib/Algebra/Polynomial/Splits.lean:174]: Thanks!

File: Mathlib/Algebra/Polynomial/Splits.lean (hunk 1 above)
Comment (jjdishere) [reply Mathlib/Algebra/Polynomial/Splits.lean:148]: Thank you for your suggestion! @alreadydone 

I will add the iff version. However, `(f.comp g).Splits i ↔ f.Splits i` if `degree (map i g) = 1` do need `L` to be a field. Do you suggest
1. I keep both versions, or 
2. only add an iff version for `CommRing`
3. only prove a more general form for `Field`

Comment (alreadydone) [reply Mathlib/Algebra/Polynomial/Splits.lean:148]: I don't think it need L (I think you mean the domain of the RingHom `i`, which is in fact K after my change) to be a field. [Polynomial.splits_id_iff_splits](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Polynomial/Splits.html#Polynomial.splits_id_iff_splits) should have made it clear that splitting only depends on the image of the polynomial under the `i`, which always have coefficients in a field (`L`).

File: Mathlib/Algebra/Polynomial/Splits.lean [hunk 6]
```diff
@@ -139,6 +139,21 @@ theorem splits_X_pow (n : ℕ) : (X ^ n).Splits i :=
 theorem splits_id_iff_splits {f : K[X]} : (f.map i).Splits (RingHom.id L) ↔ f.Splits i := by
   rw [splits_map_iff, RingHom.id_comp]
 
+theorem Splits.comp_of_degree_one {f : K[X]} {p : K[X]} (hd : p.degree = 1)
+    (hl : IsUnit p.leadingCoeff) (h : f.Splits i) : (f.comp p).Splits i := by
```
Comment (alreadydone) [inline Mathlib/Algebra/Polynomial/Splits.lean:143]: You should only need `IsUnit (p.map i).leadingCoeff` and this is automatic if `(p.map i).degree = 1`.

File: Mathlib/Algebra/Polynomial/AlgebraMap.lean [hunk 7]
```diff
@@ -557,11 +570,22 @@ lemma comp_X_add_C_eq_zero_iff : p.comp (X + C t) = 0 ↔ p = 0 :=
 
 lemma comp_X_add_C_ne_zero_iff : p.comp (X + C t) ≠ 0 ↔ p ≠ 0 := comp_X_add_C_eq_zero_iff.not
 
+lemma dvd_comp_iff_of_degree_one (p q r : R[X]) (hd : r.degree = 1) (hl : IsUnit r.leadingCoeff) :
+  p ∣ q.comp r ↔ p.comp (C hl.unit.inv * (X - C (r.coeff 0))) ∣ q := by
```
Comment (alreadydone) [inline Mathlib/Algebra/Polynomial/AlgebraMap.lean]: I think in this lemma it might be better to replace `r` by `C a * X + C b` and use the inverse given by an `[Invertible a]` assumption.

File: Mathlib/Algebra/Polynomial/AlgebraMap.lean [hunk 8]
```diff
@@ -294,6 +294,19 @@ def algEquivOfCompEqX (p q : R[X]) (hpq : p.comp q = X) (hqp : q.comp p = X) : R
   refine AlgEquiv.ofAlgHom (aeval p) (aeval q) ?_ ?_ <;>
     exact AlgHom.ext fun _ ↦ by simp [← comp_eq_aeval, comp_assoc, hpq, hqp]
 
+/-- The automorphism of the polynomial algebra given by `p(X) ↦ p(a*X+b)`,
+  with inverse `p(X) ↦ p(a⁻¹*(X-b))`. -/
+@[simps!]
+def algEquivOfDegreeOne {R} [CommRing R] {p : R[X]} (hd : p.degree = 1)
+    (hl : IsUnit p.leadingCoeff) : R[X] ≃ₐ[R] R[X] := by
```
Comment (alreadydone) [inline Mathlib/Algebra/Polynomial/AlgebraMap.lean:301]: Same here, I'd prefer replacing `p` by `C a * X + C b`.

File: Mathlib/Algebra/Polynomial/AlgebraMap.lean (hunk 7 above)
Comment (jjdishere) [reply Mathlib/Algebra/Polynomial/AlgebraMap.lean]: Thank you very much! I felt very bad when I was writing this `hl.unit.inv`. Your advice is much better.

File: Mathlib/Algebra/Polynomial/AlgebraMap.lean (hunk 8 above)
Comment (jjdishere) [reply Mathlib/Algebra/Polynomial/AlgebraMap.lean:301]: Thanks!

File: Mathlib/Algebra/Polynomial/Splits.lean (hunk 1 above)
Comment (jjdishere) [reply Mathlib/Algebra/Polynomial/Splits.lean]: Thank you! I've restated the theorems in `K`.

File: Mathlib/Algebra/Polynomial/Splits.lean (hunk 6 above)
Comment (jjdishere) [reply Mathlib/Algebra/Polynomial/Splits.lean]: I've done a little differently. I realized that I could further generalize the result to `(p.map i).degree ≤ 1`. Then prove a weaker but easier to check version for `p.degree ≤ 1`.

Currently, I write the conditions in the form `(p.map i).degree` instead of `(p.map i) = C a * X + C b`.

Comment (jjdishere) [reply Mathlib/Algebra/Polynomial/Splits.lean]: Also added an iff version for `(p.map i).degree = 1`.

File: Mathlib/Algebra/Polynomial/AlgebraMap.lean [hunk 9]
```diff
@@ -304,6 +304,20 @@ theorem algEquivOfCompEqX_eq_iff (p q p' q' : R[X])
 theorem algEquivOfCompEqX_symm (p q : R[X]) (hpq : p.comp q = X) (hqp : q.comp p = X) :
     (algEquivOfCompEqX p q hpq hqp).symm = algEquivOfCompEqX q p hqp hpq := rfl
 
+/-- The automorphism of the polynomial algebra given by `p(X) ↦ p(a * X + b)`,
+  with inverse `p(X) ↦ p(a⁻¹ * (X - b))`. -/
+@[simps!]
+def algEquivOfCMulXAddC {R} [CommRing R] (a b : R) [Invertible a] : R[X] ≃ₐ[R] R[X] :=
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Polynomial/AlgebraMap.lean:310]: I don't understand the "Of" in this name

Comment (jjdishere) [reply Mathlib/Algebra/Polynomial/AlgebraMap.lean]: Thanks! Renamed to `algEquivCMulXAddC`.

File: Mathlib/Algebra/Polynomial/AlgebraMap.lean [hunk 10]
```diff
@@ -304,6 +304,20 @@ theorem algEquivOfCompEqX_eq_iff (p q p' q' : R[X])
 theorem algEquivOfCompEqX_symm (p q : R[X]) (hpq : p.comp q = X) (hqp : q.comp p = X) :
     (algEquivOfCompEqX p q hpq hqp).symm = algEquivOfCompEqX q p hqp hpq := rfl
 
+/-- The automorphism of the polynomial algebra given by `p(X) ↦ p(a * X + b)`,
+  with inverse `p(X) ↦ p(a⁻¹ * (X - b))`. -/
+@[simps!]
+def algEquivCMulXAddC {R} [CommRing R] (a b : R) [Invertible a] : R[X] ≃ₐ[R] R[X] :=
```
Comment (riccardobrasca) [inline Mathlib/Algebra/Polynomial/AlgebraMap.lean:310]:
```suggestion
def algEquivCMulXAddC {R : Type*} [CommRing R] (a b : R) [Invertible a] : R[X] ≃ₐ[R] R[X] :=
```
I think this is the most common spelling in mathlib.

File: Mathlib/Algebra/Polynomial/AlgebraMap.lean [hunk 11]
```diff
@@ -304,6 +304,20 @@ theorem algEquivOfCompEqX_eq_iff (p q p' q' : R[X])
...
+  algEquivOfCompEqX (C a * X + C b) (C ⅟ a * (X - C b))
+      (by simp [← C_mul, ← mul_assoc]) (by simp [← C_mul, ← mul_assoc])
+
+theorem algEquivCMulXAddC_symm_eq {R} [CommRing R] (a b : R) [Invertible a] :
```
Comment (riccardobrasca) [inline Mathlib/Algebra/Polynomial/AlgebraMap.lean:314]:
```suggestion
theorem algEquivCMulXAddC_symm_eq {R : Type*} [CommRing R] (a b : R) [Invertible a] :
```

File: Mathlib/Algebra/Polynomial/AlgebraMap.lean [hunk 12]
```diff
@@ -320,6 +334,15 @@ theorem algEquivAevalXAddC_symm {R} [CommRing R] (t : R) :
     (algEquivAevalXAddC t).symm = algEquivAevalXAddC (-t) := by
   simp [algEquivAevalXAddC, sub_eq_add_neg]
 
+/-- The involutive automorphism of the polynomial algebra given by `p(X) ↦ p(-X)`. -/
+@[simps!]
+def algEquivAevalNegX {R} [CommRing R] : R[X] ≃ₐ[R] R[X] :=
```
Comment (riccardobrasca) [inline Mathlib/Algebra/Polynomial/AlgebraMap.lean:339]:
```suggestion
def algEquivAevalNegX {R : Type*} [CommRing R] : R[X] ≃ₐ[R] R[X] :=
```

File: Mathlib/Algebra/Polynomial/AlgebraMap.lean [hunk 13]
```diff
@@ -320,6 +334,15 @@ theorem algEquivAevalXAddC_symm {R} [CommRing R] (t : R) :
...
+  algEquivOfCompEqX (-X) (-X) (by simp) (by simp)
+
+theorem comp_neg_X_comp_neg_X {R} [CommRing R] (p : R[X]) : (p.comp (-X)).comp (-X) = p := by
```
Comment (riccardobrasca) [inline Mathlib/Algebra/Polynomial/AlgebraMap.lean:342]:
```suggestion
theorem comp_neg_X_comp_neg_X {R : Type*} [CommRing R] (p : R[X]) : (p.comp (-X)).comp (-X) = p := by
```

File: Mathlib/Algebra/Polynomial/Splits.lean [hunk 14]
```diff
@@ -139,26 +139,71 @@ theorem splits_X_pow (n : ℕ) : (X ^ n).Splits i :=
 theorem splits_id_iff_splits {f : K[X]} : (f.map i).Splits (RingHom.id L) ↔ f.Splits i := by
   rw [splits_map_iff, RingHom.id_comp]
 
-theorem Splits.comp_X_sub_C {i : L →+* F} (a : L) {f : L[X]}
-    (h : f.Splits i) : (f.comp (X - C a)).Splits i := by
+variable {i}
```
Comment (riccardobrasca) [inline Mathlib/Algebra/Polynomial/Splits.lean:142]:
```suggestion
variable {i}

```
Otherwise it seems only for the next result.

**Review by riccardobrasca — APPROVED** [review]
Thanks!

bors d+

File: Mathlib/Algebra/Polynomial/AlgebraMap.lean (hunk 10 above)
Comment (alreadydone) [reply Mathlib/Algebra/Polynomial/AlgebraMap.lean:310]: Sorry I've forgotten about this PR.
I recall it used to be the case that arguments in a def/lemma can be inferred, but every argument appearing in `variable` must be given a type, which is maybe why people got the habit to specify Type* everywhere. Now in Lean 4, even the `variable`s can have their types inferred, and I see little reason not to make use of this feature.

Comment (riccardobrasca) [reply Mathlib/Algebra/Polynomial/AlgebraMap.lean:310]: It's not very important, so don't worry about it.

I've asked a [question](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/.60lemma.20foo.20.7BR.7D.60.20or.20.60lemma.20foo.20.7BR.20.3A.20Type*.7D.60), but in the meantime this can be merged.

**Comment by riccardobrasca** [comment]
@jjdishere can you take into account the remaining comments and merge this (ignore the issue about `{R}` and `{R : Type*}` for now)? Thanks!

**Comment by riccardobrasca** [comment]
Can you please fix the error? Thanks!

**Comment by jjdishere** [comment]
> Can you please fix the error? Thanks!

Sorry for the delay! Fixed.
